US08729263B2
To a solution of 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol (120 mg, 0.32 mmol) in DCM (2 mL) was added triethylamine (0.113 mL, 0.810 mmol) at RT. The reaction mixture was cooled to 0° C., followed by addition of N-phenyltrifluoromethanesulfonimide (116 mg, 0.32 mmol). The reaction mixture was warmed to RT and stirred for 2 h. The reaction was quenched with aqueous sodium bicarbonate solution and extracted with DCM. The organic layer was dried over sodium sulfate, filtered and concentrated to give the crude product which was adjusted to pH 3 using 1 M HCl aqueous solution and loaded on an SCX column. The crude product was washed with methanol then eluted with 2 N ammonia in methanol. The product fractions were collected and dried to afford 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate (140 mg, MS: 503.4 [M+H+].).

reactant | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenol | 0.32 mmol, 120 mg | COC=1C=C(C=CC1C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)O | C21H30N4O2
reactant | triethylamine | 0.810 mmol, 0.113 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.32 mmol, 116 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)phenyl trifluoromethanesulfonate | 140 mg | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)OC)(F)F | C22H29F3N4O4S
